US08609680B2
Preparation of 2-[(1R)-5-(5-Ethylpyrimidin-2-yl)-2,3-dihydro-1H-inden-1-yl]-7-[(5-methoxypyridin-2-yl)acetyl]-2,7-diazaspiro[3.5]nonane (3A)
To a solution of 2-[(1R)-5-(5-ethylpyrimidin-2-yl)-2,3-dihydro-1H-inden-1-yl]-2,7-diazaspiro[3.5]nonane dihydrochloride (3-1c, 630 mg, 1.38 mmol) in dimethylformamide (5 mL) was added (5-methoxypyridin-2-yl)acetic acid (SM-1aa, 230 mg, 1.38 mmol), HBTU (523 mg, 1.38 mmol) and triethylamine (1.20 mL, 8.5 mmol). The solution was stirred at room temperature for 15 hours. The reaction mixture was concentrated under reduced pressure and the residual DMF was azeotroped with toluene. The residue was partitioned between 50 mL of ethyl acetate and 50 mL 1N NaOH solution. The organic layer was collected, washed with saturated brine, dried over Na2SO4 and concentrated. The crude product was purified on an Analogix (Analogix Inc., Burlington, Wis.) 8 g silica column (1-10% MeOH in CH2Cl2 in 20 minutes) to afford the desired product (554 mg, 79.4%) as an off-white foam. The solid was stirred in 50 mL of refluxing diisopropyl ether for 6 hours and filtered to afford a light-grey powder (490 mg, 71%). MS (ES+) 498.5 (M+H)+. 1H NMR (CDCl3) δ 1.28 (t, 3H), 1.53-1.77 (m, 4H), 1.77-2.01 (m, 1H), 2.03-2.22 (m, 1H), 2.65 (q, 2H), 2.76-2.94 (m, 1H), 2.95-3.18 (m, 5H), 3.30-3.54 (m, 4H), 3.69-3.86 (m, 5H), 3.88-4.04 (m, 1H), 7.14 (dd, 1H), 7.19-7.26 (m, 1H), 7.33 (d, 1H), 8.13-8.29 (m, 3H), 8.60 (s, 2H). [α]D20=+40.0 deg (c=10 mg/mL, MeOH).

reactant | 2-[(1R)-5-(5-ethylpyrimidin-2-yl)-2,3-dihydro-1H-inden-1-yl]-2,7-diazaspiro[3.5]nonane dihydrochloride | 1.38 mmol, 630 mg | Cl.Cl.C(C)C=1C=NC(=NC1)C=1C=C2CC[C@H](C2=CC1)N1CC2(C1)CCNCC2
reactant | (5-methoxypyridin-2-yl)acetic acid | 1.38 mmol, 230 mg | COC=1C=CC(=NC1)CC(=O)O | C8H9NO3
reactant | HBTU | 1.38 mmol, 523 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 8.5 mmol, 1.20 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-[(1R)-5-(5-Ethylpyrimidin-2-yl)-2,3-dihydro-1H-inden-1-yl]-7-[(5-methoxypyridin-2-yl)acetyl]-2,7-diazaspiro[3.5]nonane | 554 mg, 79.4% | C(C)C=1C=NC(=NC1)C=1C=C2CC[C@H](C2=CC1)N1CC2(C1)CCN(CC2)C(CC2=NC=C(C=C2)OC)=O | C30H35N5O2
